US08957070B2
Ethyl 5-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3,4-thiadiazole-2-carboxylate
A mixture of ethyl [2-({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)hydrazino](oxo)acetate (0.43 g), Lawesson's reagent (0.42 g) and tetrahydrofuran (10 mL) was stirred at 50° C. overnight. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography, and the title compound (0.29 g, yield 68%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 176-177° C.

reactant | ethyl [2-({7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}carbonyl)hydrazino](oxo)acetate | 0.43 g | CN(C=1C=CC=C2C=C(NC12)C(=O)NNC(C(=O)OCC)=O)S(=O)(=O)C=1SC=CC1 | C18H18N4O6S2
reactant | Lawesson's reagent | 0.42 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Ethyl 5-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3,4-thiadiazole-2-carboxylate | 0.29 g, yield 68% | CN(C=1C=CC=C2C=C(NC12)C1=NN=C(S1)C(=O)OCC)S(=O)(=O)C=1SC=CC1 | C18H16N4O4S3
